Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][C:13]([H:14])[H:15],-0.0263143617894
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.68935164937
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.94967131691
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.95290336991
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:9]#[C:11][H:12].[C:8]([H:10])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.60335990391
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5],3.10954861655
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]=[O:7].[H:8],2.76312156913
[H:1][C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-5.31515516601
[H:1][O:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.25001012025
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])=[C:11]([H:12])[H:13].[O:9][H:10],2.621607331
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.50192463792
[C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.00994122116
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7](=[O:8])[H:9],3.17559713743
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.59735937819
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15],2.22834645368
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16],4.85844293329
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.76684062691
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:7],1.94401847711
[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.182532199100001
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-1.98073183506
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9],2.28823451125
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]#[C:9][C:10]([H:11])([H:12])[H:13].[H:7],3.26954926709
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:10][H:11].[H:1][C:2]([C:3]#[C:5][C:6]([H:7])([H:8])[H:9])([H:12])[H:13],2.92686434676
[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:4],3.91809236076
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:12]([H:13])[H:14],3.5622387000000004
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11]>>[C:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11].[H:4],1.7430320757599995
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11]>>[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11].[H:1],3.88154085175
